US07902238B2
In analogy to example 1.d (S)-2-amino-3-[(3-fluoro-phenyl)-(4-methoxy-benzyl)-amino]-propan-1-ol was reacted with cyanogen bromide to give (S)-4-{[(3-fluoro-phenyl)-(4-methoxy-benzyl)-amino]-methyl}-4,5-dihydro-oxazol-2-ylamine. Light yellow gum. MS (ISP): 330.3 ([M+H]+)

reactant | (S)-2-amino-3-[(3-fluoro-phenyl)-(4-methoxy-benzyl)-amino]-propan-1-ol | N[C@H](CO)CN(CC1=CC=C(C=C1)OC)C1=CC(=CC=C1)F | C17H21FN2O2
reactant | cyanogen bromide | N#CBr | CBrN
product | (S)-4-{[(3-fluoro-phenyl)-(4-methoxy-benzyl)-amino]-methyl}-4,5-dihydro-oxazol-2-ylamine | FC=1C=C(C=CC1)N(CC1=CC=C(C=C1)OC)C[C@@H]1N=C(OC1)N | C18H20FN3O2
